US06258825B1
60% Sodium hydride of 105 mg was added to a dimethylformamide 6 ml solution of 1-cyclooctylmethyl-4-piperidone of 300 mg, and the solution was stirred at a room temperature for 30 minutes. Then, methyl iodide of 160 μl was added thereto, and the solution was further stirred for 8 hours. The reaction solution was diluted with ethyl acetate and washed with water and saturated brine, followed by drying on anhydrous sodium sulfate. Then, the solvent was distilled off, and the resulting residue was separated and refined by means of silica gel column chromatography (ethyl acetate/hexane=1/20), whereby the captioned compound of 45 mg was obtained in the form of colorless liquid. Further, 1-cyclooctylmethyl-3,5-dimethyl-4-piperidone of 42 mg was obtained in the form of colorless liquid.

reactant | Sodium hydride | [H-].[Na+]
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 1-cyclooctylmethyl-4-piperidone | C1(CCCCCCC1)CN1CCC(CC1)=O | C14H25NO
reactant | methyl iodide | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyclooctylmethyl-3,5-dimethyl-4-piperidone | C1(CCCCCCC1)CN1CC(C(C(C1)C)=O)C | C16H29NO
